US04002749
B. 1-(4,5-Dihydro-2-thiazolyl)-1,3-dihydro-3-[(4-methoxyphenyl)methylene]-2H-indol-2-one
To a warmed benzene solution of 1-(2-thiazolin-2-yl)-indolin-2-one (2.0 g, 7.2 mmol) and p-methoxybenzaldehyde (1.5 g, 11 mmole) is added piperidine (0.6 ml). The mixture is heated at reflux temperature for 2 hours. The reaction mixture is then washed with NaHSO3 solution, diluted HCl and water. The organic phase is dried over anhydrous MgSO4 and concentrated in vacuo. The residue is recrystallized once each from acetone/hexane, acetonitrile and CHCl3 /methanol and gives 1.3 g (43%) of the product (m.p. 164.5°-167° C, softens at 149° C).

reactant | 1-(2-thiazolin-2-yl)-indolin-2-one | 7.2 mmol, 2.0 g | S1C(=NCC1)N1C(CC2=CC=CC=C12)=O | C11H10N2OS
reactant | p-methoxybenzaldehyde | 11 mmole, 1.5 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | piperidine | 0.6 ml | N1CCCCC1 | C5H11N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(4,5-Dihydro-2-thiazolyl)-1,3-dihydro-3-[(4-methoxyphenyl)methylene]-2H-indol-2-one | 1.3 g, 43% | S1C(=NCC1)N1C(C(C2=CC=CC=C12)=CC1=CC=C(C=C1)OC)=O | C19H16N2O2S
